US04334079
3-Butylphenylacetic acid, potassium salt, is reacted with 4-isopropoxybenzyl chloride to obtain 4-isopropoxybenzyl 3-butylphenylacetate;

reactant | 3-Butylphenylacetic acid | C(CCC)C=1C=C(C=CC1)CC(=O)O | C12H16O2
reactant | potassium | [K] | K
reactant | 4-isopropoxybenzyl chloride | C(C)(C)OC1=CC=C(CCl)C=C1 | C10H13ClO
product | 4-isopropoxybenzyl 3-butylphenylacetate | C(CCC)C=1C=C(C=CC1)CC(=O)OCC1=CC=C(C=C1)OC(C)C | C22H28O3
